US04618617
To a solution of 0.95 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-methylthiomethyl-1,2,4-oxadiazole in 150 ml of ethanol was added a solution of 1.36 g of sodium metaperiodate in 50 ml of water. After stirring with reflux for 9 hours, the reaction mixture was cooled, diluted with water and extracted with chloroform. The extracts were washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was chromatographed over silica gel using chloroform to yield 1.0 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-methylsulfinylmethyl- 1,2,4-oxadiazole. It was recrystallized from ethyl acetate-diisopropyl ether to give colorless needles, m.p. 71°-72° C. (decomp.).

reactant | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-methylthiomethyl-1,2,4-oxadiazole | 0.95 g | FC=1C=C(C(C)C2=NC(=NO2)CSC)C=CC1C1=CC=CC=C1 | C18H17FN2OS
reactant | sodium metaperiodate | 1.36 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-methylsulfinylmethyl- 1,2,4-oxadiazole | 1.0 g | FC=1C=C(C(C)C2=NC(=NO2)CS(=O)C)C=CC1C1=CC=CC=C1 | C18H17FN2O2S
